US08748624B2
STEP D: Ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(2-formyl-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate (37 mg, 0.09 mmol), 2-chloro-4′-(trifluoromethyl)-[1,1-biphenyl]-4-amine (39 mg, 0.14 mmol) and HOAc (5 μL, 0.09 mmol) were dissolved in EtOH (2 mL) and the resulting mixture was heated to 80° C. After 5 h the resulting mixture was cooled to room temperature, solid NaCNBH3 (28 mg, 0.45 mmol) was added and the resulting mixture was stirred at room temperature. After 2 h saturated aqueous NH4Cl was added and the aqueous phase was extracted with EtOAc. The combined organics were dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-formyl-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.09 mmol, 37 mg | C(=O)C1=C(C=C(C=C1C)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H19F3N2O4
reactant | 2-chloro-4′-(trifluoromethyl)-[1,1-biphenyl]-4-amine | 0.14 mmol, 39 mg | ClC1=C(C=CC(=C1)N)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | HOAc | 0.09 mmol, 5 μL | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 0.45 mmol, 28 mg | [BH3-]C#N.[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | EtOH | 2 mL | CCO | C2H6O
product | Ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1C)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C33H28ClF6N3O3
